US08703758B2
A) 5-bromo-2-(cyclopropylmethoxy)pyridine
To a solution of cyclopropylmethanol (0.890 mL) in DMF (30 mL) was added sodium hydride (oil, 60%, 440 mg), and the mixture was stirred at room temperature for 10 min. To this mixture was added 2,5-dibromopyridine (2.00 g), and the mixture was stirred at 70° C. for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed twice with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (1.88 g).

reactant | cyclopropylmethanol | 0.890 mL | C1(CC1)CO | C4H8O
reactant | sodium hydride | 440 mg | [H-].[Na+]
reactant | 2,5-dibromopyridine | 2.00 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | Water | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 5-bromo-2-(cyclopropylmethoxy)pyridine | 1.88 g | BrC=1C=CC(=NC1)OCC1CC1 | C9H10BrNO
